US09127003B2
(R)-(3-Aminopiperidin-1-yl)(7-methoxy-1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-benzo[d]imidazol-5-yl)methanone
To a solution of (R)-tert-butyl(1-(7-methoxy-1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate (4.31 g, 7.35 mmol) in dichloromethane (DCM) (20 ml) at 0° C. was added TFA (9 ml, 118 mmol) dropwise. The reaction mixture was stirred for 5 minutes and allowed to warm to room temperature and stirred for 3 hours. The reaction mixture was concentrated under vacuum to afford an oil. The oil was dissolved in methanol and split into two equal batches. These were passed through two separate 70 g SCX cartridges. The columns were washed with MeOH (2CV) and the product collected from both columns as the free base with 2M ammonia in methanol (3CV). The product was concentrated and dried under vacuum to afford the title compound as a white solid (2.53 g).

reactant | (R)-tert-butyl(1-(7-methoxy-1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate | 7.35 mmol, 4.31 g | C(C)(C)(C)OC(N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC(F)(F)F)C)C(=C1)OC)=O | C29H33F3N6O4
reactant | TFA | 118 mmol, 9 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | (R)-(3-Aminopiperidin-1-yl)(7-methoxy-1-methyl-2-(1-(2,2,2-trifluoroethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-1H-benzo[d]imidazol-5-yl)methanone | 2.53 g | N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC(F)(F)F)C)C(=C1)OC | C24H25F3N6O2
